US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(4-trifluoromethyl-phenyl)-[1,3,4]-oxadiazole
N-(3-Chloro-thiophene-2-carbonyl)-N′-(4-trifluoromethylbenzoyl)-hydrazine: A solution of 3-chloro-2-thiophenecarboxylic acid hydrazide (70.4 mg, 0.4 mmol), 4-trifluoromethylbenzoyl chloride (83.6 mg, 0.4 mmol) in pyridine (5 mL) was refluxed for 4 h and then cooled. The solution was diluted by water and the precipitate was collected by filtration, and then dried to yield 129 mg (93%) of the title compound.

reactant | N-(3-Chloro-thiophene-2-carbonyl)-N′-(4-trifluoromethylbenzoyl)-hydrazine | ClC1=C(SC=C1)C(=O)NNC(C1=CC=C(C=C1)C(F)(F)F)=O | C13H8ClF3N2O2S
reactant | 3-chloro-2-thiophenecarboxylic acid hydrazide | 0.4 mmol, 70.4 mg | ClC1=C(SC=C1)C(=O)NN | C5H5ClN2OS
reactant | 4-trifluoromethylbenzoyl chloride | 0.4 mmol, 83.6 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | water | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5-(3-Chloro-thiophen-2-yl)-3-(4-trifluoromethyl-phenyl)-[1,3,4]-oxadiazole | 129 mg, 93% | ClC1=C(SC=C1)C1=NN(CO1)C1=CC=C(C=C1)C(F)(F)F | C13H8ClF3N2OS
